### PR TITLE
Implement new defintions suggested by @jadephilipoom

### PR DESCRIPTION
**Pull request by aferr**
# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 1]
```diff
@@ -465,31 +467,39 @@ Proof.
...
                     by (eapply node_low_eq_to_lbl_eq; eassumption).
                 admit.
             + (* e1 ={ell} *) assumption.
 Admitted.
 
+Theorem state_low_eq_implies_projection_eq: forall ell s1 s2,
+    state_low_eq ell s1 s2 ->
+    state_low_proj ell s1 = state_low_proj ell s2.
+Proof.
+    (* Can this be proven without FE ?? *)
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:500]: @jadephilipoom Can you take a look at this part?

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -503,7 +513,9 @@ Proof.
         as [s3' [ e3 [Hstep_s1_s3 [H_leq_s1'_s3' H_leq_e1_e3]]]].
     assert (H_s2_proj_s3': (step_system_ev (state_low_proj ell s2) s3' e3)).
         { replace (state_low_proj ell s1) with 
-            (state_low_proj ell s2) in Hstep_s1_s3. assumption. }
+            (state_low_proj ell s2) in Hstep_s1_s3. assumption. 
+            symmetry. eapply state_low_eq_implies_projection_eq; eauto.
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:517]: @jadephilipoom (Alternatively see if this lemma is really needed).

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 3]
```diff
@@ -175,24 +174,37 @@ End low_projection.
...
-Global Instance node_state_low_eq_sym: forall ell, Symmetric (node_state_low_eq ell) | 10.
+Global Instance chan_state_low_eq_sym: forall ell, Symmetric (chan_state_low_eq ell) | 10.
 Proof. congruence. Qed.
 
+Global Instance state_low_eq_refl: forall ell, Reflexive (state_low_eq ell) | 10.
+Proof. unfold state_low_eq. unfold Reflexive. eauto.  Qed.
+
+Global Instance state_low_eq_trans: forall ell, Transitive (state_low_eq ell) | 10.
+Proof. cbv [Transitive state_low_eq]. intros. destruct H, H0. split. 
+    (* seems it should be possible to use Transitive for node_state, chan_state here*)
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:201]: @jadephilipoom and actually also can you take a look at this to make sure FE is not needed here either?

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 1 above)
Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:500]: I think it can't, but I might have an idea for how to avoid needing it. Testing it out and will update you soon!

Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:500]: Okay, it does work! Pushed the code to my fork [here](https://github.com/jadephilipoom/oak/tree/new_state_loweq). ([diff](https://github.com/jadephilipoom/oak/commit/2cb427d2c812364cd50c04d7981f368c926f6621))

I've replaced this lemma with:
```coq
￼Lemma step_system_ev_projection ell s1 s2 s3 e :
￼  state_low_eq ell s1 s2 ->
￼  step_system_ev (state_low_proj ell s2) s3 e ->
￼  (exists s4, state_low_eq ell s3 s4
￼         /\ step_system_ev (state_low_proj ell s1) s4 e).
```

This means that, without proving Leibniz equality between the `s1` and `s2` projections, we can still manipulate a`step_system_ev` hypothesis to get a `step_system_ev` hypothesis for the projection of an equivalent state.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 3 above)
Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:201]: Adding `congruence` at the end solved this lemma!

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 4]
```diff
@@ -207,8 +219,7 @@ Theorem state_loweq_from_substates: forall ell s1 s2,
     chan_state_low_eq ell (chans s1) (chans s2) ->
     state_low_eq ell s1 s2.
 Proof.
-    intros. unfold state_low_eq. unfold low_eq. unfold state_low_proj. congruence.
-Qed.
+Admitted.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:222]: I'm a little surprised that this proof broke. Would swapping `congruence` for `auto` solve it?

**Review by jadephilipoom — APPROVED** [review]
LGTM! If you want to use the changes I linked to, I can either push them to this branch or create a separate PR once this is merged.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 4 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:222]: It looks like that theorem isn't actually used, so it can also just be deleted. If you push your change to this branch would you mind either checking if that easy change proves it, or just deleting the theorem?

**Comment by aferr** [comment]
Awesome! It's nice that we can skip adding an axiom. Thanks for working on this. If you push your change to this branch we have one fewer PR to do, so that seems slightly easier. (Though I don't have a strong preference if you'd rather do it the other way).

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 4 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:222]: (And if it turns out to be more work than either of those trivial things don't worry about it).

Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: Swapping `congruence` for `eauto` did work, so I've pushed that.
